US07238808B2
{4-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-phenyl}-methanol
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (2.0 g, 6 mmol) and commercially available 4-bromobenzyl alcohol (1.37 g, 7 mmol) according to general procedure II. Obtained as a light brown solid (575 mg, 22%). MS (ISP) 462.1 [(M+H)+]; mp 200–202° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 6 mmol, 2.0 g | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 4-bromobenzyl alcohol | 7 mmol, 1.37 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
product | {4-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-phenyl}-methanol | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C=C2)CO)C2=CC=C(C=C2)C(F)(F)F)(F)F | C23H13F6N3O
